US04416884
To 50 ml of concentrated hydrochloric acid having dissolved therein 25 g of stannous chloride was added 6.7 g of 5-nitro-6-chloroquinaldine and the mixture was allowed to react on a water bath at a temperature of 80° to 90° C. for 30 minutes. The reaction mixture was ice-cooled, rendered alkaline (pH 10) with 30% sodium hydroxide and filtered and extracted with 500 ml of chloroform and Celite (diatomaceous earth). After drying over anhydrous sodium sulfate the chloroform fraction was concentrated and recrystallized from a mixture of benzene and hexane to obtain 4.5 g of 5-amino-6-chloroquinaldine as colorless plates having a melting point of 196° to 197° C.

reactant | 5-nitro-6-chloroquinaldine | 6.7 g | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1Cl)C | C10H7ClN2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | 5-amino-6-chloroquinaldine | 4.5 g | NC1=C2C=CC(=NC2=CC=C1Cl)C | C10H9ClN2
